US07132539B2
Preparation of [2-[2-cyclopropylmethyl-4-(1-methylcarbamoyl-2-naphthalen-2-yl-ethyl)-3-oxo-piperazin-1-yl]-1-(4-fluorobenzyl)-2-oxo-ethyl]-carbamic acid tert-butyl ester (17):
To a solution of 2-{4-[2-tert-butoxycarbonylamino-3-(4-fluorophenyl)-propionyl]-3-cyclopropylmethyl-2-oxo-piperazin-1-yl}-3-naphthalen-2-yl-propionic acid, 16, (114 mg, 0.18 mmol)) in DMF (2 mL) are added methylamine (2M, 0.11 mL, 0.22 mmol), 1-hydroxybenzotriazole (53 mg, 0.39 mmol), N-methylmorpholine (63 mg, 0.62 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (41 mg, 0.21 mmol) consecutively. The reaction mixture is stirred for 3 hours, quenched with aqueous NH4Cl and extracted several times with ethyl acetate. The combined extracts are dried over Na2SO4, filtered and concentrated in vacuo to a residue, which is purified over silica gel (hexanes/ethyl acetate, 1:4) to afford 108 mg (93% yield) of the desired product. 1H NMR (300 MHz, CD3OD, Rotamers) δ 7.73–7.86 (m, 3H), 7.70 (s, 1H), 7.38–7.52 (m, 3H), 7.14–7.30 (m, 2H), 6.91–7.04 (m, 2H), 5.54–5.72 (m, 1H), 4.50–4.78 (m, 2H), 4.28–4.40 (m, 0.3H), 4.03–4.15 (m, 0.7H), 3.72–3.81 (m, 0.3H), 3.58–3.68 (m, 0.3H), 3.42–3.53 (m, 2H), 3.12–3.32 (m, 2H), 2.70–3.00 (m, 6H), 1.41 (s, 5H), 1.34 (s, 4H), 0.66–1.30 (m, 2H), −0.60–−0.12 (m, 4.3H), −0.80–−0.68 (m, 0.7H); MS (ESMS) m/z 631.3 (M+H)+.

reactant | 2-{4-[2-tert-butoxycarbonylamino-3-(4-fluorophenyl)-propionyl]-3-cyclopropylmethyl-2-oxo-piperazin-1-yl}-3-naphthalen-2-yl-propionic acid | C(C)(C)(C)OC(=O)NC(C(=O)N1C(C(N(CC1)C(C(=O)O)CC1=CC2=CC=CC=C2C=C1)=O)CC1CC1)CC1=CC=C(C=C1)F | C35H40FN3O6
reactant | methylamine | 0.22 mmol, 2M, 0.11 mL | CN | CH5N
reactant | 1-hydroxybenzotriazole | 0.39 mmol, 53 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 0.62 mmol, 63 mg | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.21 mmol, 41 mg | CN(CCCN=C=NCC)C | C8H17N3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | [2-[2-cyclopropylmethyl-4-(1-methylcarbamoyl-2-naphthalen-2-yl-ethyl)-3-oxo-piperazin-1-yl]-1-(4-fluorobenzyl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | 108 mg, 93% yield | C(C)(C)(C)OC(NC(C(=O)N1C(C(N(CC1)C(CC1=CC2=CC=CC=C2C=C1)C(NC)=O)=O)CC1CC1)CC1=CC=C(C=C1)F)=O | C36H43FN4O5
